US05286728
The 1-(4-methylaminobenzoyl)-4-[2-(4-methylmercaptophenyl)ethyl]piperazine is prepared from 1.66 g of 4-methylaminobenzoic acid, 1.95 g of N,N-carbonyldiimidazole and 2.35 g of 1-[2-(4-methylmercaptophenyl)ethyl]piperazine in dimethylformamide at 85°. The base is purified via the hydrochloride (m.p. 185°, decomp.) and melts at 120°-121°.

reactant | 4-methylaminobenzoic acid | 1.66 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | N,N-carbonyldiimidazole | 1.95 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[2-(4-methylmercaptophenyl)ethyl]piperazine | 2.35 g | CSC1=CC=C(C=C1)CCN1CCNCC1 | C13H20N2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-methylaminobenzoyl)-4-[2-(4-methylmercaptophenyl)ethyl]piperazine | CNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)SC)C=C1 | C21H27N3OS
